US07176310B1
12. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid cyclobutylmethyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using cyclobutanemethanol (32 μL, 0.34 mmol) as the coupling partner. Chromatography (1:1 methanol:dichloromethane) through SiO2 yielded 56 mg (92%) of the titled compound. ESI-MS m/z 360 (MH+), 358 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | cyclobutanemethanol | 0.34 mmol, 32 μL | C1(CCC1)CO | C5H10O
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid cyclobutylmethyl ester | 56 mg, 92% | C1(CCC1)COC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C18H18FN3O4
